US07141684B2
Bis-A {2,2-bis-(4-hydroxyphenyl) propane} was converted to the diallyl ether via reaction of the diphenate salt with allyl chloride. The diallyl ether of Bis-A was heated in refluxing o-dichlorobenzene for 48 hrs to yield 2,2-bis(3-allyl4-hydroxyphenyl)propane. MS m/z 308 (M+ calcd for C21H24O2=308). The diphenol was converted to the dimethyl ether via reaction with methyl iodide as described in Example 2. MS m/z 336 (M+ calcd for C23H28O2=336). H NMR (300 MHz, CDCl3) d 1.70 (s, 6, CH3), 3.37 (m, 4, CH2 allyl), 3.82 (s, 6, OCH3), 4.92–5.05 (m, 4, CH2 vinyl), 5.85–6.15 (m, 2, vinyl), 6.70–7.05 (m, 6, aromatic). Oxidation of the diallyl derivative as described in Example 1 gave 2,2-{bis(3,3-epoxypropyl)4-methoxyphenyl}propane. MS m/z 353 (M+ —CH3) {Calcd for C23H28O4=368}. H NMR (300 MHz, CDCl3) d 1.60 (s, 6, CH3), 2.25 (d, 2, CH2epoxypropyl) 2.60–2.75 (m, 4, CH2 epoxypropyl), 2.85–2.95 (m, 2, CH2 epoxypropyl), 3.15–3.22 (m, 2, CH epoxypropyl) 3.83 (s, 6, OCH3), 6.75 (d, 2, aromatic), 7.10 (d, 4, aromatic).

reactant | 2,2-bis-(4-hydroxyphenyl) propane | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | diallyl ether | C(C=C)OCC=C | C6H10O
reactant | diphenate | C=1(C(C(=O)[O-])=CC=CC1)C=1C(C(=O)[O-])=CC=CC1
reactant | allyl chloride | C(C=C)Cl | C3H5Cl
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2,2-bis(3-allyl4-hydroxyphenyl)propane | C(C=C)C=1C=C(C=CC1O)C(C)(C)C1=CC(=C(C=C1)O)CC=C | C21H24O2
